US06838567B1
To methyl (S)-4-amino-2-hydroxybutyrate hydrochloride (521.6 mg; 409.5 mg when calculated as methyl (S)-4-amino-2-hydroxybutyrate) was added 1.8 mL of thionyl chloride. The mixture was stirred at room temperature for 3 hours and then at 50° C. for 4 hours. Thereafter, the solvent was distilled off under reduced pressure to give 576.2 mg of methyl (R)-4-amino-2-chlorobutyrate hydrochloride (yield quantitative, optical purity 96.9% ee). The analysis of the optical purity was carried out by derivatizing into (R)-3-chloro-2-pyrrolidinone with sodium hydrogen carbonate, followed by high performance liquid chromatography using a chiral column (Chiralcel OB-H (Daicel)).

reactant | methyl (S)-4-amino-2-hydroxybutyrate hydrochloride | 521.6 mg | Cl.NCC[C@@H](C(=O)OC)O
reactant | thionyl chloride | 1.8 mL | S(=O)(Cl)Cl | Cl2OS
product | methyl (R)-4-amino-2-chlorobutyrate hydrochloride | 576.2 mg | Cl.NCC[C@H](C(=O)OC)Cl | InChI=1S/C5H10ClNO2.ClH/c1-9-5(8)4(6)2-3-7;/h4H,2-3,7H2,1H3;1H/t4-;/m1./s1
